US05162533
3-Cyano-2-piperazino-5,4'-bipyridine-1'-oxide hydrochloride
A mixture of 2 g 2-chloro-3-cyano-5,4'-bipyridine-1'-oxide, 0.8 g piperazine, 0.52 g of KHCO3 and 80 ml ethanol is refluxed for 3 hours and then evaporated to dryness under vacuum. The residue is dissolved in 10 ml 1N HCl and the solution is mixed with ethanol until crystallization occurs. After cooling overnight, the crystals that are formed are filtered off with suction and dried at 110° C. Yield: 2.23 g (81.2% of the theoretical yield), having a melting point of 255° C.-260° C.

reactant | 2-chloro-3-cyano-5,4'-bipyridine-1'-oxide | 2 g | ClC1=NC=C(C=C1C#N)C1=CC=[N+](C=C1)[O-] | C11H6ClN3O
reactant | piperazine | 0.8 g | N1CCNCC1 | C4H10N2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 3-Cyano-2-piperazino-5,4'-bipyridine-1'-oxide hydrochloride | Cl.C(#N)C=1C(=NC=C(C1)C1=CC=[N+](C=C1)[O-])N1CCNCC1 | InChI=1S/C15H15N5O.ClH/c16-10-13-9-14(12-1-5-20(21)6-2-12)11-18-15(13)19-7-3-17-4-8-19;/h1-2,5-6,9,11,17H,3-4,7-8H2;1H
